US04159331
In the manner given in Example 1C, 4-chloro-7-trifluoromethylquinoline is heated with 1-[(p-aminophenyl)sulfonyl]-4-(3,5-dipropylphenyl)piperazine to give 1-(3,5-dipropylphenyl)-4-[[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]phenyl]sulfonyl]piperazine.

reactant | 4-chloro-7-trifluoromethylquinoline | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 1-[(p-aminophenyl)sulfonyl]-4-(3,5-dipropylphenyl)piperazine | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC(=CC(=C1)CCC)CCC | C22H31N3O2S
product | 1-(3,5-dipropylphenyl)-4-[[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]phenyl]sulfonyl]piperazine | C(CC)C=1C=C(C=C(C1)CCC)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C32H35F3N4O2S
